US05049667
e) Preparation of N-tosyl-bis(2-tosyloxyethyl)amine
A solution of 32.5 g (0.31 mole) of diethanolamine in 60 cm3 of pyridine are added slowly to a solution of 185 g (0.97 mole) of tosyl chloride in 220 cm3 of pyridine at 0° C. so that the temperature does not exceed 5° C. After the addition is complete, the mixture is maintained at this temperature for 1 h, then it is poured into 220 cm3 of ice-cold water with vigorous stirring. After filtration, washing and drying 148.4 g of precipitate are obtained (yield 85%; Rf=0.6 silica/CH2Cl2 /acetone/98/2).

reactant | diethanolamine | 0.31 mole, 32.5 g | N(CCO)CCO | C4H11NO2
reactant | tosyl chloride | 0.97 mole, 185 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 60 cm3 | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 220 cm3 | N1=CC=CC=C1 | C5H5N
product | N-tosyl-bis(2-tosyloxyethyl)amine | yield 85% | S(=O)(=O)(C1=CC=C(C)C=C1)N(CCOS(=O)(=O)C1=CC=C(C)C=C1)CCOS(=O)(=O)C1=CC=C(C)C=C1 | C25H29NO8S3
